US07071340B2
0.206 ml (0.41 mmol) of a 1.9M n-butyllithium solution is added dropwise to 207 mg (0.435 mmol) of [3-(2-methyl-1,3-dioxolan-2-yl)propyl](triphenyl)phosphonium iodide in suspension in 3.2 ml of tetrahydrofuran cooled to 0° C. The medium is stirred for one hour and then the ylide is added at 0° C., via a hollow tube, to 48 mg (0.22 mmol) of 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde, prepared according to example 72, in solution in 3.6 ml of tetrahydrofuran. The medium is stirred at ambient temperature for 25 minutes and then water and dichloromethane are added. The phases are separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are then washed with brine, are then dried and are then finally concentrated under vacuum. The crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 10/90) to give 47 mg (71%) of 3-(chloromethylene)-7-[4-(2-methyl-1,3-dioxolan-2-yl)-1-butenyl]-2,3-dihydro-1-benzoxepin in the form of a mixture of four diastereoisomers in a Z/E (60/40) ratio for the unsaturated chain and a Z/E ratio (85/15) for the chloromethylene functional group; 1H NMR (300 MHz, CDCl3) ZZ isomer: 1.32 (s, 3H), 1.81 (m, 2H), 2.44 (m, 2H), 3.9 (m, 4H), 4.86 (s, 2H), 5.63 (m, 1H), 6.31 (m, 4H), 6.96 (m, 3H).

reactant | n-butyllithium | 1.9M | C(CCC)[Li]
reactant | [3-(2-methyl-1,3-dioxolan-2-yl)propyl](triphenyl)phosphonium iodide | 0.435 mmol, 207 mg | [I-].CC1(OCCO1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde | 0.22 mmol, 48 mg | ClC=C1COC2=C(C=C1)C=C(C=C2)C=O | C12H9ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.6 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(chloromethylene)-7-[4-(2-methyl-1,3-dioxolan-2-yl)-1-butenyl]-2,3-dihydro-1-benzoxepin | 47 mg, 71% | ClC=C1COC2=C(C=C1)C=C(C=C2)C=CCCC2(OCCO2)C | C19H21ClO3
